US05998433
b) Synthesis of 1-(2-ethylmethylaminomethyl-5,7-dihydro-4H-furo[2,3-c]pyridin-6-yl)-6-phenylhexan-1-one hydrochloride
1-(2-Ethylmethylaminomethyl-5,7-dihydro-4H-furo[2,3-c]pyridin-6-yl)-6-phenylhexan-1-one 0.108 g was dissolved in 2 ml of methanol; hydrogen chloride in methanol was added in excess, followed by stirring. This mixture was concentrated to yield the desired product.

reactant | 1-(2-Ethylmethylaminomethyl-5,7-dihydro-4H-furo[2,3-c]pyridin-6-yl)-6-phenylhexan-1-one | 0.108 g | C(C)C1=C(C2=C(CN(CC2)C(CCCCCC2=CC=CC=C2)=O)O1)CNC | C23H32N2O2
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
product | 1-(2-ethylmethylaminomethyl-5,7-dihydro-4H-furo[2,3-c]pyridin-6-yl)-6-phenylhexan-1-one hydrochloride | Cl.C(C)C1=C(C2=C(CN(CC2)C(CCCCCC2=CC=CC=C2)=O)O1)CNC | InChI=1S/C23H32N2O2.ClH/c1-3-21-20(16-24-2)19-14-15-25(17-22(19)27-21)23(26)13-9-5-8-12-18-10-6-4-7-11-18;/h4,6-7,10-11,24H,3,5,8-9,12-17H2,1-2H3;1H
